US04806549
3-Butyryl-4-chloro-8-methoxyquinoline (20.2 g, 0.077 mol) and o-anisidine (15 ml, 0.11 mol) were heated under reflux in 1,4-dioxan (150 ml) for 1 hour. The solvent was evaporated and the residue dissolved in dichloromethane and washed with dilute hydrochloric acid, sodium bicarbonate solution and brine. The solution was dried, filtered and evaporated to a yellow solid, which was triturated with ether to give 3-butyryl-4-(2-methoxyphenylamino)-8-methoxyquinoline (18.55 g, 68.75%) m.p. 159°-161°.

reactant | 3-Butyryl-4-chloro-8-methoxyquinoline | 0.077 mol, 20.2 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C14H14ClNO2
reactant | o-anisidine | 0.11 mol, 15 ml | COC=1C(=CC=CC1)N | C7H9NO
solvent | 1,4-dioxan | 150 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(2-methoxyphenylamino)-8-methoxyquinoline | 18.55 g, 68.75% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)OC)OC | C21H22N2O3
